* C:\Users\Miguel\Dropbox\FIUBA\dce\tfinal\dce_tfinal\emisor_comun\emisor_comun.asc
V1 V+ 0 25
V2 V- 0 -25
V3 vin 0 SINE(0 10m 10k)
Q6 N001 vin N002 0 BC548B
R5 N002 V- 1k
R10 V+ N001 6.8k
R12 V+ vin 3.9k
R13 vin V- 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Miguel\Documents\LTspiceXVII\lib\cmp\standard.bjt
.INCLUDE ../BC548B.lib
.INCLUDE ../D1N4148.lib
.INCLUDE ../BC558B.lib
.tran 0 101m 100m 1u
.backanno
.end
