* C:\Users\Miguel\Dropbox\FIUBA\dce\dce-pfinal\simulaciones\salida\salida.asc
Q1 V2+ N014 N015 0 BC547B
Q2 N012 N015 Vo 0 BC547B
Q3 V2+ N010 N012 0 BC547B
Q4 V2+ N009 N010 0 BC547B
Q5 N022 N020 Vo 0 BC557B
Q6 V2- N021 N020 0 BC557B
Q7 V2- N023 N022 0 BC557B
Q8 V2- N025 N023 0 BC557B
R3 N015 N020 200
R4 Vo 0 8
R5 N022 N023 100
R6 N010 N012 100
D1 V1+ N012 1N4148
D2 N022 V1- 1N4148
D3 N025 N024 1N4148
D4 N008 N009 1N4148
V5 N024 0 SINE(0 {Vin} {fin})
V6 V1+ 0 {V1}
V7 0 V1- {V1}
V8 V2+ 0 {V2}
V9 0 V2- {V2}
Q9 N013 N016 N018 0 BC547B
R7 N014 N013 100
R8 N021 N018 100
R9 N011 N013 16
D5 N011 N008 1N4728
D6 N024 N018 1N4728
R10 N011 N016 3.3k
R11 N016 N018 1.68k
Q10 N007 N004 N003 0 BC557B
Q11 N005 N001 V2+ 0 BC557B
Q12 N008 N005 N002 0 BC557B
R12 V2+ N003 100
R13 N005 N004 2.2k
R14 N001 N002 2.2k
R15 V2+ N002 68
RL1 N007 0 1
C1 V2+ N004 47µ
C2 V+ N006 47µ
R16 N005 N006 10k
R17 N006 0 10k
C3 N013 N018 20n
.model D D
.lib C:\Users\Miguel\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Miguel\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param V1=20 V2=30
.param Vin=25 fin=10k
;tran 0 {(N_cycles_wait+N_cycles_show)/fin} {N_cycles_wait/fin} {1/(fin*10e3)}
.param N_cycles_show=10 N_cycles_wait=10
.op 0 {(N_cycles_wait+N_cycles_show)/fin} {N_cycles_wait/fin} {1/(fin*10e3)}
.four {fin} 9 {N_cycles_show} V(Vo)
.OPTIONS plotwinsize=0 numdgt=15
.MODEL 1N4728 D( IS=15N N=2.22 BV=3.3 IBV=76M 
+      RS=169M CJO=4P VJ=750M M=330M FC=500M 
+      TT=100N EG=1.11 XTI=3 KF=0 AF=1 
+      )
.backanno
.end
