* C:\Users\alumno\Desktop\dce-pfinal\simulaciones\sumador_vas\rta_frec\a.asc
R2 V- N019 {ReFte}
R3 V- N018 {ReFte}
Q3 Vo N016 N017 0 BC547B
V1 V+ 0 {Vcc}
V2 V- 0 {-Vcc}
V3 Vin 0 0 AC 1
R1 N017 V- 10
R5 N013 N011 {Rr2}
Q1 N012 N010 N007 0 BC557B
Q2 N015 N011 N009 0 BC557B
Q7 N012 N015 N018 0 BC547B
Q8 N015 N015 N019 0 BC547B
R4 Vo N011 {Rr1}
R10 N009 N008 {ReDif}
R11 N008 N007 {ReDif}
Q4 N008 N004 N003 0 BC557B
Q5 N005 N001 V+ 0 BC557B
Q6 Vo N005 N002 0 BC557B
C1 V+ N004 47µ
C2 V+ N006 47µ
R6 V+ N003 100
R8 N002 N001 2.2k
R9 N002 V+ 68
R13 0 N006 10k
R14 N006 N005 10k
R15 N004 N005 2.2k
Q9 V+ NC_01 N014 0 BC547B
R16 N014 V- 500k
R7 N010 0 {Rr1}
C4 N010 Vin 47µ
C3 N013 0 1000µ
Q10 0 N012 N016 0 BC547B
R17 N016 V- 2.2k
Ccomp Vo N012 {Ccomp}
R12 Vo 0 100k
.model NPN NPN
.model PNP PNP
.lib C:\Users\alumno\Documents\LTspiceXVII\lib\cmp\standard.bjt
.INCLUDE ../../D1N4148.lib
.param Vcc=30
.param ReDif=100 ReFte=1
.param Rr1=9.6k Rr2=400
.param Ccomp=100p
.ac dec 1000 1 10meg
.backanno
.end
