* C:\Users\Miguel\Dropbox\FIUBA\dce\dce-pfinal\simulaciones\total\a\a.asc
R1 V- N036 {ReFte}
R2 V- N035 {ReFte}
Q1 N028 N033 N034 0 BC337-25
V3 Vin 0 SINE(0 {Vin} {fin})
R3 N034 V- 10
R4 N031 N027 {Rr2}
Q2 N030 N026 N023 0 BC557B
Q3 N032 N027 N025 0 BC557B
Q4 N030 N032 N035 0 BC547B
Q5 N032 N032 N036 0 BC547B
R5 N028 N027 {Rr1}
R6 N025 N024 {ReDif}
R7 N024 N023 {ReDif}
Q6 N024 N004 N003 0 BC557B
Q7 N005 N001 V+ 0 BC557B
Q8 N007 N005 N002 0 BC557B
C1 V+ N004 47µ
C2 V+ N006 47µ
R8 V+ N003 100
R9 N002 N001 2.2k
R10 N002 V+ 68
R11 0 N006 10k
R12 N006 N005 10k
R13 N004 N005 2.2k
R15 N026 0 {Rr1}
C3 N026 Vin 47µ
C4 N031 0 1000µ
Q10 0 N030 N033 0 BC547B
R16 N033 V- 2.2k
Ccomp1 N028 N030 {Ccomp}
Q11 V+ N013 N014 0 BC547B
Q12 N011 N014 Vo 0 Qtip41c
Q13 V+ N009 N011 0 Qtip41c
Q14 V+ N008 N009 0 BC547B
Q15 N021 N019 Vo 0 Qtip42c
Q16 V- N020 N019 0 BC557B
Q17 V- N022 N021 0 Qtip42c
Q18 V- N029 N022 0 BC557B
R20 N014 N019 200
R21 Vo 0 8k
R22 N021 N022 100
R23 N009 N011 100
D1 V1+ N011 1N4148
D2 N021 V1- 1N4148
D3 N029 N028 1N4148
D4 N007 N008 1N4148
V5 V1+ 0 {V1}
V6 0 V1- {V1}
V7 V+ 0 {Vcc}
V8 0 V- {Vcc}
Q19 N012 N015 N017 0 BC547B
R24 N013 N012 100
R25 N020 N017 100
R26 N010 N012 16
R27 N010 N015 3.3k
R28 N015 N017 1k
C7 N012 N017 20n
D5 N007 N010 1N4148
D6 N017 N028 1N4148
.model D D
.lib C:\Users\Miguel\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Miguel\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 {(N_cycles_wait+N_cycles_show)/fin} {N_cycles_wait/fin} {1/(fin*10e3)}
.four {fin} 9 {N_cycles_show} V(Vo)
.OPTIONS plotwinsize=0 numdgt=15
.param N_cycles_show=1 N_cycles_wait=10
.param Vin=1 fin=10k
.param ReDif=100 ReFte=1
.param Rr1=9.6k Rr2=400
.param Ccomp=100p
.param V1=20 Vcc=30
.MODEL 1N4728 D( IS=15N N=2.22 BV=3.3 IBV=76M 
+      RS=169M CJO=4P VJ=750M M=330M FC=500M 
+      TT=100N EG=1.11 XTI=3 KF=0 AF=1 
+      )
.MODEL BZX792V7 D(RS=14.877 BV=2.4025  
+ CJO=687.46P TT=50N M=.33 VJ=.75 IS=1.0E-10 N=1.27 IBV=5MA)
.MODEL Qtip41c npn
+IS=7.55826e-11 BF=260.542 NF=1.11221 VAF=100
+IKF=0.526814 ISE=1e-08 NE=2.18072 BR=26.0542
+NR=1.5 VAR=1000 IKR=3.54059 ISC=1e-08
+NC=1.63849 RB=4.56157 IRB=0.1 RBM=0.1
+RE=0.0162111 RC=0.0810556 XTB=0.1 XTI=1
+EG=1.206 CJE=1.93296e-10 VJE=0.4 MJE=0.259503
+TF=1e-08 XTF=4.06972 VTF=7.1157 ITF=0.001
+CJC=1.09657e-10 VJC=0.730921 MJC=0.23 XCJC=0.803085
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=9.01013e-08 PTF=0 KF=0 AF=1
.MODEL Qtip42c pnp
+IS=5.65618e-10 BF=120.073 NF=1.24004 VAF=90.6071
+IKF=1.46498 ISE=6.98929e-14 NE=4 BR=2.83268
+NR=1.30331 VAR=27.1221 IKR=10 ISC=6.98934e-14
+NC=3.78125 RB=4.71382 IRB=0.234602 RBM=0.12691
+RE=0.000666374 RC=0.0927424 XTB=3.21145 XTI=1
+EG=1.05 CJE=1.93221e-10 VJE=0.4 MJE=0.259369
+TF=9.99163e-09 XTF=4.41941 VTF=6.53488 ITF=0.001
+CJC=1.0962e-10 VJC=0.731968 MJC=0.23 XCJC=0.799902
+FC=0.799995 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.backanno
.end
